US08202873B2
Dissolve 2,4-pentanedione (0.81 mL, 7.85 mmol) and pyrimidin-2-yl-hydrazine (1.037 g, 9.42 mmol) in acetic acid (10 mL). Stir the mixture for 69 hr. at room temperature then concentrate. Dilute the residue with saturated aqueous sodium bicarbonate, extract 3 times with DCM, dry (sodium sulfate), filter and concentrate to give 2-(3,5-dimethylpyrazol-1-yl)-pyrimidine as a white solid (1.333 g, 97%). MS (ES): m/z=175 [M+H]+.

reactant | 2,4-pentanedione | 7.85 mmol, 0.81 mL | CC(CC(C)=O)=O | C5H8O2
reactant | pyrimidin-2-yl-hydrazine | 9.42 mmol, 1.037 g | N1=C(N=CC=C1)NN | C4H6N4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(3,5-dimethylpyrazol-1-yl)-pyrimidine | 1.333 g, 97% | CC1=NN(C(=C1)C)C1=NC=CC=N1 | C9H10N4
